***************************************
*** GAGABIRO VALVE POWER AMPLIFIER 	***
***	AUTHOR:  JOAO CARLET			***
*** CONTACT: JVCCARLET@USP.BR		***
***************************************

*RESISTORS
R1 		0 		N023 	70
R2 		N021 	V_PP 	150k
R3 		0 		N010 	220k
R4 		N008 	V_PP 	22k
R5 		N003 	V_PP 	22k
R6 		N009 	N017 	82k
R7 		V_in 	N017 	10k
R8 		N010 	N011 	1k
R9 		0 		N012 	1k
R14 	N019 	N020 	1k
R15 	N019 	0 		1Meg
R16 	N006 	N007 	1k
R17 	N022 	0 		820
R18 	N009 	N006 	820
R28 	V_grid 	N004 	220k
R29 	N015 	V_grid 	220k
R32 	N016 	N015 	1k
R33 	N005 	N004 	1k


*LOAD RESISTOR
Rload 	0 		out 	8

*CAPACITORS
C1 		N010 	N009 	1µ
C2 		N017 	N019 	10n
C3 		N022 	0 		22µ
C5 		N015 	N008 	1µ
C6 		N004 	N003 	1µ

*BIPOLARS
Q1 	N013 N021 N023 	0 		BC847C
Q4 	N021 N023 0 	0 		BC847C

*OUTPUT TRANSFORMER
XU1 N001 N002 V_PP 	N014 	N018 out NC_01 0 PAT4002

*VALVES
XU2 N001 N002 N005 	0 		EL84
XU3 N018 N014 N016 	0 		EL84
XU6 N008 N011 N013 	12AU7
XU7 N003 N012 N013 	12AU7
XU8 V_PP N007 N009 	12AU7
XU9 N006 N020 N022 	12AU7

*SOURCES
V4 V_PP 0 300
V5 V_in 0 SINE(0 0.447 1k) AC 1
V1 V_grid 0 -13

*COMMANDS
.OPTIONS numdgt=7
.OPTIONS plotwinsize=0
.four 1k 10 V(out)
.meas tran output_power AVG I(RLoad)*v(out)
.tran 0 2 1.99 10u

*INCLUDES
.model NPN NPN
.model PNP PNP
.lib C:\Users\Colombari\Documents\LTspiceXVII\lib\cmp\standard.bjt
.lib trafos.lib
.lib tube.lib
.lib tubes.lib
.backanno
.end
